### PR TITLE
[Merged by Bors] - feat(CategoryTheory/EpiMono): add cube lemma

### PR DESCRIPTION
**Pull request by Whysoserioushah**
This is another upstreaming PR originated from the [CFT](https://github.com/kbuzzard/ClassFieldTheory) repo, it's a collaborative work from 2025 Clay Summer School on Formalizing Class Field Theory.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Category/Cat.lean [hunk 1]
```diff
@@ -400,6 +400,29 @@ end
 
 end Cat
 
+section cubeLemma
```
Comment (tb65536) [inline Mathlib/CategoryTheory/Category/Cat.lean]: This can be moved to an earlier file.

File: Mathlib/CategoryTheory/Category/Cat.lean [hunk 2]
```diff
@@ -400,6 +400,29 @@ end
...
+    (hx0x : fx00 ≫ f10x = f00x ≫ fx01) (hx1x : fx10 ≫ f11x = f01x ≫ fx11)
+    (hxx0 : f0x0 ≫ fx10 = fx00 ≫ f1x0) (hepi : Epi f00x) : f0x1 ≫ fx11 = fx01 ≫ f1x1 := by
+  rw [← cancel_epi f00x]
+  slice_lhs 1 2 => rw [← h0xx]
+  slice_lhs 2 3 => rw [← hx1x]
+  slice_lhs 1 2 => rw [hxx0]
+  rw [Category.assoc]
+  slice_lhs 2 3 => rw [h1xx]
+  slice_lhs 1 2 => rw [hx0x]
+  rw [Category.assoc]
```
Comment (tb65536) [inline Mathlib/CategoryTheory/Category/Cat.lean]:
```suggestion
  grind
```

File: Mathlib/CategoryTheory/Category/Cat.lean [hunk 3]
```diff
@@ -400,6 +400,29 @@ end
...
+variable {A : Type u} [Category.{v} A] (M000 M001 M010 M011 M100 M101 M110 M111 : A)
+  (f00x : M000 ⟶ M001) (f01x : M010 ⟶ M011) (f10x : M100 ⟶ M101) (f11x : M110 ⟶ M111)
+  (f0x0 : M000 ⟶ M010) (f0x1 : M001 ⟶ M011) (f1x0 : M100 ⟶ M110) (f1x1 : M101 ⟶ M111)
+  (fx00 : M000 ⟶ M100) (fx01 : M001 ⟶ M101) (fx10 : M010 ⟶ M110) (fx11 : M011 ⟶ M111)
+
+/-- This is a theorem saying if five faces of a cube commute and one edge is an epimorphism,
+  then the sixth face must also commute. -/
+theorem cubeLemma (h0xx : f0x0 ≫ f01x = f00x ≫ f0x1) (h1xx : f1x0 ≫ f11x = f10x ≫ f1x1)
+    (hx0x : fx00 ≫ f10x = f00x ≫ fx01) (hx1x : fx10 ≫ f11x = f01x ≫ fx11)
+    (hxx0 : f0x0 ≫ fx10 = fx00 ≫ f1x0) (hepi : Epi f00x) : f0x1 ≫ fx11 = fx01 ≫ f1x1 := by
```
Comment (tb65536) [inline Mathlib/CategoryTheory/Category/Cat.lean]: Can you also add the Mono version?

Comment (tb65536) [inline Mathlib/CategoryTheory/Category/Cat.lean]: Maybe `[Epi f00x]`?

**Comment by attilavjda** [comment]
Nice lemma! A few non-blocking suggestions from a new contributor:
      
      snake_case cube_lemma better for Prop?
      
      M000… names might read like modules but are arbitrary objects, so renaming them X000…X111 (or c000…) could avoid hinting at structure that isn't assumed
      
      could this reuse the existing CommSq API?
      
      
       the binders are all explicit — intended?
       Thanks for the contribution!

File: Mathlib/CategoryTheory/Category/Cat.lean (hunk 3 above)
Comment (Whysoserioushah) [reply Mathlib/CategoryTheory/Category/Cat.lean]: changed

File: Mathlib/CategoryTheory/Category/Cat.lean (hunk 2 above)
Comment (Whysoserioushah) [reply Mathlib/CategoryTheory/Category/Cat.lean]: changed, thanks!

File: Mathlib/CategoryTheory/Category/Cat.lean (hunk 3 above)
Comment (Whysoserioushah) [reply Mathlib/CategoryTheory/Category/Cat.lean]: added thanks!

**Comment by Whysoserioushah** [comment]
> ```
>   Nice lemma! A few non-blocking suggestions from a new contributor:
>   
>   snake_case cube_lemma better for Prop?
>   
>   M000… names might read like modules but are arbitrary objects, so renaming them X000…X111 (or c000…) could avoid hinting at structure that isn't assumed
>   
>   could this reuse the existing CommSq API?
>   
>   
>    the binders are all explicit — intended?
>    Thanks for the contribution!
> ```

added `CommSq` version, thanks

**Comment by kbuzzard** [comment]
The general concensus here is "why do you need this, esp because you can just inline it with grind" but we definitely had an application once, right? I remember it coming up in a lecture. In the application can you just use `grind`?

File: Mathlib/CategoryTheory/Category/Cat.lean (hunk 1 above)
Comment (Whysoserioushah) [reply Mathlib/CategoryTheory/Category/Cat.lean]: moved

**Comment by Whysoserioushah** [comment]
> The general concensus here is "why do you need this, esp because you can just inline it with grind" but we definitely had an application once, right? I remember it coming up in a lecture. In the application can you just use `grind`?

I don't think so because I actually had to prove some square commutes for non trivial reasons, while I imagine I probably could have use five `have`s and one `grind (gen := 1000000)` to do that IMO that is not very clean! (In fact, I need this for cup product as well)

File: Mathlib/CategoryTheory/EpiMono.lean [hunk 4]
```diff
@@ -236,4 +237,42 @@ instance [IsSplitMono f] : IsSplitEpi f.op :=
...
+section cubeLemma
+
+variable {M000 M001 M010 M011 M100 M101 M110 M111 : C}
+  (f00x : M000 ⟶ M001) (f01x : M010 ⟶ M011) (f10x : M100 ⟶ M101) (f11x : M110 ⟶ M111)
+  (f0x0 : M000 ⟶ M010) (f0x1 : M001 ⟶ M011) (f1x0 : M100 ⟶ M110) (f1x1 : M101 ⟶ M111)
+  (fx00 : M000 ⟶ M100) (fx01 : M001 ⟶ M101) (fx10 : M010 ⟶ M110) (fx11 : M011 ⟶ M111)
+
+/-- This is a theorem saying if five faces of a cube commute and one edge is an epimorphism,
+  then the sixth face must also commute. -/
+theorem cubeLemma (h0xx : f0x0 ≫ f01x = f00x ≫ f0x1) (h1xx : f1x0 ≫ f11x = f10x ≫ f1x1)
```
Comment (joelriou) [inline Mathlib/CategoryTheory/EpiMono.lean]: Same for others:
```suggestion
theorem cube_lemma_of_epi (h0xx : f0x0 ≫ f01x = f00x ≫ f0x1) (h1xx : f1x0 ≫ f11x = f10x ≫ f1x1)
```

**Comment by kbuzzard** [comment]
!radar

**Comment by leanprover-radar** [comment]
[Benchmark results](https://radar.lean-lang.org/repos/mathlib4/commits/59804e8e94fdbbc74cb589259ea9f73013021c37?reference=0cd556a586391216f097067ee3785af582e78fb3) for 59804e8e94fdbbc74cb589259ea9f73013021c37 against 0cd556a586391216f097067ee3785af582e78fb3 are in. There are significant results. @kbuzzard

- 🟥 `main` exited with code **1**

No significant changes detected.

**Comment by kbuzzard** [comment]
Thanks!

**Comment by kbuzzard** [comment]
bors merge
